US07816378B2
To a solution of methyl 3-{[(3-amino-3-benzyltetrahydrofuran-2-yl)oxy]methyl}-5-[(methylsulfonyl)(propyl)amino]benzoate TFA salt (40 mg, 0.07 mmol) in THF (0.5 mL) and MeOH (0.5 mL) is 1N LiOH (0.6 mL, 0.6 mmol) and the reaction mixture is stirred at RT for 3 h. 1N HCl (0.4 mL, 0.4 mmol) is added and the reaction mixture is concentrated in vacuo to give 3-{[(3-amino-3-benzyltetrahydrofuran-2-yl)oxy]methyl}-5-[(methylsulfonyl)(propyl)amino]benzoic acid as a white solid, used as is in the following coupling.

reactant | methyl 3-{[(3-amino-3-benzyltetrahydrofuran-2-yl)oxy]methyl}-5-[(methylsulfonyl)(propyl)amino]benzoate TFA salt | 0.07 mmol, 40 mg | OC(=O)C(F)(F)F.NC1(C(OCC1)OCC=1C=C(C(=O)OC)C=C(C1)N(CCC)S(=O)(=O)C)CC1=CC=CC=C1
reactant | LiOH | 0.6 mmol, 1N, 0.6 mL | [Li+].[OH-]
reactant | HCl | 0.4 mmol, 1N, 0.4 mL | Cl | ClH
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.5 mL | CO | CH4O
product | 3-{[(3-amino-3-benzyltetrahydrofuran-2-yl)oxy]methyl}-5-[(methylsulfonyl)(propyl)amino]benzoic acid | NC1(C(OCC1)OCC=1C=C(C(=O)O)C=C(C1)N(CCC)S(=O)(=O)C)CC1=CC=CC=C1 | C23H30N2O6S
